US07994185B2
Step C: N-{3-[5-(2-amino-4-pyrimidinyl)-2-(4-methyl-4-piperidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide
To a solution of 1,1-dimethylethyl 4-(5-(2-amino-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate (64 mg, 0.104 mmol) in dichloromethane (DCM) (2 mL) was added TFA (500 μl, 6.49 mmol), and the reaction mixture was stirred for 1 h. The reaction mixture was concentrated and the residue was purified using RP-HPLC. The TFA salt was neutralized to the title compound (37 mg). MS (ESI): 515.2 [M+1]+.

reactant | 1,1-dimethylethyl 4-(5-(2-amino-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate | 0.104 mmol, 64 mg | NC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=COC=C1)F | C28H31FN6O5S2
reactant | TFA | 6.49 mmol, 500 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(4-methyl-4-piperidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCNCC1)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C23H23FN6O3S2
